US06797718B2
Under a nitrogen purge, 5% platinum on carbon (2.5 g) was added to a Parr vessel containing a solution of tert-butyl 2-{2-[(2-chloro-5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]ethoxy}ethylcarbamate (25.0 g, 63.2 mmol) in toluene (500 mL). The vessel was placed under hydrogen pressure (30 psi, 2.0×105 Pa) for four hours, and then 2-propanol (50 mL) was added. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with 2-propanol (500 mL) and ethanol (500 mL). The filtrate was concentrated under reduced pressure to yield 22.9 g of tert-butyl 2-{2-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]ethoxy}ethylcarbamate as a brown oil.

reactant | tert-butyl 2-{2-[(2-chloro-5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]ethoxy}ethylcarbamate | 63.2 mmol, 25.0 g | ClN1NN2C(C(=C(C(=C2C)C)NCCOCCNC(OC(C)(C)C)=O)[N+](=O)[O-])=N1 | C16H26ClN7O5
reactant | 2-propanol | 50 mL | CC(C)O | C3H8O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-{2-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]ethoxy}ethylcarbamate | 22.9 g | NC=1C=2N(C(=C(C1NCCOCCNC(OC(C)(C)C)=O)C)C)N=NN2 | C16H27N7O3
